US05451596
A mixture of trans-4-aminocyclohexanol hydrochloride (2.00 g; 13.19 mmol), triphenylmethyl chloride (4.41 g; 15.83 mmol) and triethylamine (6.44 ml; 46.17 mmol) in 40 ml CH2Cl2 is refluxed overnight. The solids are filtered off and the residue concentrated in vacuo. The resultant product is purified with CH2Cl2 CH2Cl2: ethylacetate (5:1) to obtain trans-4-triphenylmethylaminocyclo-hexanol which is used directly in the next step.

reactant | trans-4-aminocyclohexanol hydrochloride | 13.19 mmol, 2.00 g | Cl.N[C@@H]1CC[C@H](CC1)O
reactant | triphenylmethyl chloride | 15.83 mmol, 4.41 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | triethylamine | 46.17 mmol, 6.44 ml | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 40 ml | C(Cl)Cl | CH2Cl2
product | trans-4-triphenylmethylaminocyclo-hexanol | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)N[C@@H]1CC[C@H](CC1)O | C25H27NO
